US06818642B2
B10. (4-Benzyloxy-benzyl)-(5-chloro-pyrimidin-4-yl)-amine
2.1 g (19 mmol) of potassium tert-butylate are added to a suspension of 2.2 g (17.2 mmol) of 5-chloro-pyrimidin-4-ylamine in tert-butanol (50 ml) and the temperature is kept at 60° C. After stirring for 1 h, a solution of 4.1 g (17.2 mmol) of 4-benzyloxy-benzyl chloride in tert-butanol (40 ml) is added dropwise and the reaction mixture is stirred at this temperature for 1 h. The reaction mixture is cooled to room temperature and poured into water (300 ml). The precipitate is filtered off and the filtrate is extracted with ethyl acetate (2×200 ml). The combined organic layers are dried with magnesium sulphate and concentrated in vacuo. The residue is purified by chromatography on silica gel (toluene/dioxane=6:1) to yield 2.0 g (37%) of the title compound as a beige powder of m.p. 95°-100° C.

reactant | potassium tert-butylate | 19 mmol, 2.1 g | CC(C)(C)[O-].[K+]
reactant | 5-chloro-pyrimidin-4-ylamine | 17.2 mmol, 2.2 g | ClC=1C(=NC=NC1)N | C4H4ClN3
reactant | 4-benzyloxy-benzyl chloride | 17.2 mmol, 4.1 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | water | 300 ml | O | H2O
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | (4-Benzyloxy-benzyl)-(5-chloro-pyrimidin-4-yl)-amine | 2.0 g, 37% | C(C1=CC=CC=C1)OC1=CC=C(CNC2=NC=NC=C2Cl)C=C1 | C18H16ClN3O
